US05438150
A mixture of (S)-5-hydroxymethyl-1-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione (1.0 g, 3.5 mmol), prepared as in Example 7, and ammonium formate (10 g, 158.6 mmol) stirred at approximately 125° C. for 1 hour. The mixture was then heated to approximately 138° C. and stirred for an additional 35 minutes. The mixture was diluted with 25 mL of water and allowed to cool to room temperature. The mixture was aged for approximately 18 hours giving a crystalline material. The material was isolated by filtration and the filter residue was washed with water. Drying to constant weight gave (S)-N-[3-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazol-4-ylmethyl]formamide (0.92 g, 2.96 mmol).

reactant | (S)-5-hydroxymethyl-1-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione | 3.5 mmol, 1.0 g | OCC1=CNC(N1[C@@H]1CC2=CC(=CC(=C2CC1)F)F)=S | C14H14F2N2OS
reactant | ammonium formate | 158.6 mmol, 10 g | C(=O)[O-].[NH4+]
solvent | water | 25 mL | O | H2O
product | (S)-N-[3-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazol-4-ylmethyl]formamide | 2.96 mmol, 0.92 g | FC1=C2CC[C@@H](CC2=CC(=C1)F)N1C(NC=C1CNC=O)=S | C15H15F2N3OS
